### PR TITLE
chore: Process upstreamed ToMathlib/Interval, unlock ToMathlib/Annulus

### PR DESCRIPTION
**Pull request by JasperMS**
All results that will be upstreamed from `ToMathlib/Interval` have been incorporated in a Mathlib release.
This PR adjust the project to use the upstreamed lemmas and reformulates the Annulus analogues to the outcome of the Mathlib review for Interval.

As a result, `ToMathlib/Annulus` is now free to be upstreamed; I've adjusted the status.

I've kept the original project results in Annulus commented out, just in case. Removing them is not an issue of course.

### CODE REVIEW

File: Carleson/ToMathlib/Annulus.lean [hunk 1]
```diff
@@ -241,27 +241,57 @@ lemma cc_union_oi {x : X} {r R : ℝ} (h : r ≤ R) : cc x r R ∪ oi x R = ci x
...
-theorem iUnion_co_eq_ci {x : X} {f : ℕ → ℝ} (hf : ∀ n, f 0 ≤ f n) (h2f : ¬BddAbove (range f)) :
-    ⋃ (i : Nat), co x (f i) (f (i+1)) = ci x (f 0) := by
-  simp [co, ci, iUnion_setOf, ← iUnion_Ico_eq_Ici hf h2f]
-
-theorem iUnion_oc_eq_oi {x : X} {f : ℕ → ℝ} (hf : ∀ n, f 0 ≤ f n) (h2f : ¬BddAbove (range f)) :
-    ⋃ (i : Nat), oc x (f i) (f (i+1)) = oi x (f 0) := by
-  simp [oc, oi, iUnion_setOf, ← iUnion_Ioc_eq_Ioi hf h2f]
+variable {α : Type*} [LinearOrder α]
+open Order
+/-- Union formula for `Set.co x (f i) (f (Order.succ i))` over `i ∈ Ici a`. See also
```
Comment (fpvandoorn) [inline Carleson/ToMathlib/Annulus.lean]:
```suggestion
/-- Union formula for `Set.Annulus.co x (f i) (f (Order.succ i))` over `i ∈ Ici a`. See also
```

File: Carleson/ToMathlib/Annulus.lean [hunk 2]
```diff
@@ -241,27 +241,57 @@ lemma cc_union_oi {x : X} {r R : ℝ} (h : r ≤ R) : cc x r R ∪ oi x R = ci x
...
+`iUnion_co_map_succ_eq_ci` for the specialization `a = ⊥`. -/
+theorem biUnion_Ici_co_map_succ [SuccOrder α] [IsSuccArchimedean α] {x : X} {f : α → ℝ}
+    {a : α} (hf : ∀ i ∈ Ici a, f a ≤ f i) (h2f : ¬BddAbove (f '' Ici a)) :
+    ⋃ i ∈ Ici a, co x (f i) (f (succ i)) = ci x (f a) := by
+  simp [co, ci, iUnion_setOf, ← biUnion_Ici_Ico_map_succ hf h2f]
+
+/-- Union formula for `Set.oc x (f i) (f (Order.succ i))` over `i ∈ Ici a`. See also
```
Comment (fpvandoorn) [inline Carleson/ToMathlib/Annulus.lean]:
```suggestion
/-- Union formula for `Set.Annulus.oc x (f i) (f (Order.succ i))` over `i ∈ Ici a`. See also
```

**Review by fpvandoorn — COMMENTED** [review]
Thanks! Two small comments
